US08685970B2
Preparation of N-(2-phenylquinolin-8-yl)piperidine-4-carboxamide
2-Phenylquinolin-8-amine (60 mg, 0.27 mmol) was subjected to the same general amide coupling procedure outlined above using 1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid. The resulting intermediate, namely tert-butyl 4-(2-phenylquinolin-8-ylcarbamoyl)piperidine-1-carboxylate, was further treated with 2 mL of 25% TFA in CH2Cl2 for 6 h. The reaction mixture was concentrated under reduced pressure. The resulting residue was purified by preparative HPLC (using aqueous CH3CN that has been buffered with 0.1% TFA) to afford 25 mg of the product. MS (ESI) calcd for C21H21N3O (m/z): 331.17. found: 332 [M+1].

reactant | 2-Phenylquinolin-8-amine | 0.27 mmol, 60 mg | C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C=C1)N | C15H12N2
reactant | 1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | tert-butyl 4-(2-phenylquinolin-8-ylcarbamoyl)piperidine-1-carboxylate | C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C=C1)NC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C26H29N3O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(2-phenylquinolin-8-yl)piperidine-4-carboxamide | 25 mg | C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C=C1)NC(=O)C1CCNCC1 | C21H21N3O
